US07709510B2
6-[(2-methylpropyl)amino]-1,3-benzothiazole-2-thiol (Table 2, Entry 1)
Into a 500 ml round bottomed flask were added 6-amino-1,3-benzothiazole-2-thiol (5.0 g, 0.03 mol), hexanal (3.0 g, 0.03 mol), methanol (250 ml), glacial acetic acid (2.5 ml), water (1 ml), and NaCNBH3 (1.9 g, 0.03 mol). The mixture was stirred for 4 h, filtered, and the filtrate was concentrated to give light yellow solid. The solid was washed with water and triturated with diethyl ether to give 4.0 g (61%) of the title compound. 1H NMR (DMSO-d6) δ=0.88 (t, 6H), 1.79 (m, 1H), 2.77 (t, 2H), 6.64 (d, 1H), 6.72 (s, 1H), 6.99 (d, 2H); ESIMS: m/z 239 (M−H).

reactant | 6-amino-1,3-benzothiazole-2-thiol | 0.03 mol, 5.0 g | NC1=CC2=C(N=C(S2)S)C=C1 | C7H6N2S2
reactant | hexanal | 0.03 mol, 3.0 g | C(CCCCC)=O | C6H12O
reactant | methanol | 250 ml | CO | CH4O
reactant | NaCNBH3 | 0.03 mol, 1.9 g | [BH3-]C#N.[Na+]
solvent | water | 1 ml | O | H2O
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | 6-[(2-methylpropyl)amino]-1,3-benzothiazole-2-thiol | 4.0 g, 61% | CC(CNC1=CC2=C(N=C(S2)S)C=C1)C | C11H14N2S2
